US07923456B2
Step 8: 2-(2-Fluoro-4-methylsulfanyl-phenylamino)-6-formylaminomethyl-nicotinic acid methyl ester
To a solution of 2-chloro-6-formylaminomethyl-nicotinic acid methyl ester (123 mg, 0.54 mmol) in toluene (1.6 mL) was added potassium phosphate (119 mg, 0.76 mmol), 2-fluoro-4-methylsulfanyl-phenylamine (102 mg, 0.65 mmol), tris(dibenzylideneacetone)dipalladium (12.8 mg, 0.014 mmol) and dicyclohexyl-(2′,6′-diisopropoxy-biphenyl-2-yl)-phosphane (25 mg, 0.054 mmol). The reaction mixture was degassed with argon then heated at 100° C. After 25 hours, the reaction mixture was cooled, diluted with ethyl acetate and washed with a saturated aqueous solution of ammonium chloride, water then brine. The organic phase was isolated, dried (Na2SO4), filtered and concentrated in vacuo. The residue was triturated with ethyl acetate to afford the title compound as a bright yellow solid (43 mg, 23%). LCMS (method B): RT=3.53 min, [M+H]+=350.

reactant | 2-chloro-6-formylaminomethyl-nicotinic acid methyl ester | 0.54 mmol, 123 mg | COC(C1=C(N=C(C=C1)CNC=O)Cl)=O | C9H9ClN2O3
reactant | potassium phosphate | 0.76 mmol, 119 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-fluoro-4-methylsulfanyl-phenylamine | 0.65 mmol, 102 mg | FC1=C(C=CC(=C1)SC)N | C7H8FNS
reactant | dicyclohexyl-(2′,6′-diisopropoxy-biphenyl-2-yl)-phosphane | 0.054 mmol, 25 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC(C)C)OC(C)C)C1CCCCC1 | C30H43O2P
solvent | toluene | 1.6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.014 mmol, 12.8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-(2-Fluoro-4-methylsulfanyl-phenylamino)-6-formylaminomethyl-nicotinic acid methyl ester | 43 mg, 23% | COC(C1=C(N=C(C=C1)CNC=O)NC1=C(C=C(C=C1)SC)F)=O | C16H16FN3O3S
